US07538123B2
100 mg of 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxy-1-methyl-1,2,3,4-tetrahydroquinoline was dissolved in 6 ml of 2 N hydrochloric acid-tetrahydrofuran (1:1). The reaction solution was stirred at 70° C. for 7 hours. The reaction solution was cooled to a room temperature. Thereafter, a saturated sodium bicarbonate aqueous solution was added to the reaction solution, followed by extraction with methylene chloride. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 87 mg of 1-(2-(6-methoxy-1-methyl-1,2,3,4-tetrahydroquinolin-7-yl)ethyl)piperidin-4-one. This compound was used in the following reaction without further purification.

reactant | 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxy-1-methyl-1,2,3,4-tetrahydroquinoline | 100 mg | O1CCOC12CCN(CC2)CCC2=C(C=C1CCCN(C1=C2)C)OC | C20H30N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid tetrahydrofuran | 2 N, 6 ml | Cl.O1CCCC1
product | 1-(2-(6-methoxy-1-methyl-1,2,3,4-tetrahydroquinolin-7-yl)ethyl)piperidin-4-one | 87 mg | COC=1C=C2CCCN(C2=CC1CCN1CCC(CC1)=O)C | C18H26N2O2
